datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC1=CC(c2ccccc2)=NN(C)/C1=[N:10]\CCN1CCOCC1.CCC1(C2=CCCCC2)C(=O)NC(=S)[N:21]([H:20])C1=O>>CC1=CC(c2ccccc2)=NN(C)/C1=[N+:10](\CCN1CCOCC1)[H:20].CCC1(C2=CCCCC2)C(=O)NC(=S)[N-:21]C1=O 10=20;20,21=21",
"Clc1cccc2c1nnn2[O:21][H:20].O=C([O-])c1cc2cc(Cn3cc[n:10]c3)ccc2o1>>Clc1cccc2c1nnn2[O-:21].O=C([O-])c1cc2cc(Cn3cc[n+:10]([H:20])c3)ccc2o1 10=20;20,21=21",
"C[NH+](C)Cc1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+](C)Cc1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C#CC[N:10]1CCN(C(=O)OCC)CC1.O=C(CSc1[nH]c2cc3ccccc3cc2[nH+]1)[O:21][H:20]>>C#CC[N+:10]1([H:20])CCN(C(=O)OCC)CC1.O=C(CSc1[nH]c2cc3ccccc3cc2[nH+]1)[O-:21] 10=20;20,21=21",
"Cc1ccc(O)cc1Cc1cc([N+](=O)[O-])ccc1[O-:10].OCCNc1nc(NCCO)[n+:21]([H:20])c(NCCO)n1>>Cc1ccc(O)cc1Cc1cc([N+](=O)[O-])ccc1[O:10][H:20].OCCNc1nc(NCCO)[n:21]c(NCCO)n1 10=20;20,21=21",
"CCC(=O)C(c1ccccc1)(c1ccccc1)C(C)C[N+:21](C)(C)[H:20].COc1cccc(C(=O)N[C@H]2C[C@H]3CC[C@@H](C2)[N:10]3Cc2ccccc2)c1OC>>CCC(=O)C(c1ccccc1)(c1ccccc1)C(C)C[N:21](C)C.COc1cccc(C(=O)N[C@H]2C[C@H]3CC[C@@H](C2)[N+:10]3(Cc2ccccc2)[H:20])c1OC 10=20;20,21=21",
"CC(C)(O)[O-:10].COC1=CC=C([CH:21](C(=O)C2=CC=[N+](C)C=C2)[H:20])C=C1>>CC(C)(O)[O:10][H:20].COC1=CC=C([CH-:21]C(=O)C2=CC=[N+](C)C=C2)C=C1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(C)C(C(=O)[O-])[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)C(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"Cc1ccc[n+:21]([H:20])c1.O=[N+]([O-])c1ccccc1B(O)[O-:10]>>Cc1ccc[n:21]c1.O=[N+]([O-])c1ccccc1B(O)[O:10][H:20] 10=20;20,21=21",
"O=C([O-])C(CO)[NH+:21](Cc1ccccc1O)[H:20].O=P([O-])(O)C([NH2+]Cc1ccc[n:10]c1)c1ccccc1O>>O=C([O-])C(CO)[NH:21]Cc1ccccc1O.O=P([O-])(O)C([NH2+]Cc1ccc[n+:10]([H:20])c1)c1ccccc1O 10=20;20,21=21",
"CC(=O)[N-:10]S(=O)(=O)c1ccc(C)cc1.c1ccc2c(c1)[nH]n[n+:21]2[H:20]>>CC(=O)[N:10](S(=O)(=O)c1ccc(C)cc1)[H:20].c1ccc2c(c1)[nH]n[n:21]2 10=20;20,21=21",
"CC1CCCC[NH:10]1.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CC1CCCC[NH+:10]1[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC/C(N=O)=N/[O-:10].Clc1cccc([O:21][H:20])c1>>CC/C(N=O)=N/[O:10][H:20].Clc1cccc([O-:21])c1 10=20;20,21=21",
"C#C[C@]1(O)C[C@@H](C)[NH+:21]([H:20])[C@H]2CCCC[C@@H]21.CNc1nc[n:10]c2[nH]ncc12>>C#C[C@]1(O)C[C@@H](C)[NH:21][C@H]2CCCC[C@@H]21.CNc1nc[n+:10]([H:20])c2[nH]ncc12 10=20;20,21=21",
"Nc1ccc(Oc2ccc([NH2+:21][H:20])cc2)cc1.Nc1n[nH]c(N)c1/N=N/c1ccc(C(=O)[O-:10])cc1>>Nc1ccc(Oc2ccc([NH2:21])cc2)cc1.Nc1n[nH]c(N)c1/N=N/c1ccc(C(=O)[O:10][H:20])cc1 10=20;20,21=21",
"CC(CC[NH+](C)C)[NH+:21](N)[H:20].Cc1cnc2c(c1)c(C)c(C)c1cc(C)c[n:10]c12>>CC(CC[NH+](C)C)[NH:21]N.Cc1cnc2c(c1)c(C)c(C)c1cc(C)c[n+:10]([H:20])c12 10=20;20,21=21",
"C1CC[NH:10]CC1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C1CC[NH+:10]([H:20])CC1.N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CCN(C)CCOCC[N:10](CC)CC.CN(C)c1nnn[n:21]1[H:20]>>CCN(C)CCOCC[N+:10](CC)(CC)[H:20].CN(C)c1nnn[n-:21]1 10=20;20,21=21",
"Cc1ccc([O-:10])c2ncccc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc([O:10][H:20])c2ncccc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN(C)Cc1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CN(C)Cc1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C(C[NH2+]CCc1nnn[n-:10]1)[NH2+]CCc1nnn[nH]1.CC(C)C(C(N)=O)[NH:21][H:20]>>C(C[NH2+]CCc1nnn[n:10]1[H:20])[NH2+]CCc1nnn[nH]1.CC(C)C(C(N)=O)[NH-:21] 10=20;20,21=21",
"CC(=O)CC(=O)[O-:10].Nc1nc(NCCO)nc(NCCO)[n+:21]1[H:20]>>CC(=O)CC(=O)[O:10][H:20].Nc1nc(NCCO)nc(NCCO)[n:21]1 10=20;20,21=21",
"CC(O)[C@@H]1C[C@H](CC(=O)[O-:10])C1(C)C.c1cncc(C2=[N+:21]([H:20])CCC2)c1>>CC(O)[C@@H]1C[C@H](CC(=O)[O:10][H:20])C1(C)C.c1cncc(C2=[N:21]CCC2)c1 10=20;20,21=21",
"CC1CCCC(C(=O)[O:21][H:20])c2nnnn21.Cn1cnc2c1c([O-:10])[nH+]c([O-])[n+]2C>>CC1CCCC(C(=O)[O-:21])c2nnnn21.Cn1cnc2c1c([O:10][H:20])[nH+]c([O-])[n+]2C 10=20;20,21=21",
"O=C(CCC(=O)[O:21][H:20])NOCc1ccccc1.Oc1ccccc1C[NH2:10]>>O=C(CCC(=O)[O-:21])NOCc1ccccc1.Oc1ccccc1C[NH2+:10][H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc2c(OCCCC[NH2:10])c3ccccc3cc2c1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc2c(OCCCC[NH2+:10][H:20])c3ccccc3cc2c1 10=20;20,21=21",
"CC1(C(=O)[O-:10])CCCCC1.O=C(C(F)c1ccccc1)[O:21][H:20]>>CC1(C(=O)[O:10][H:20])CCCCC1.O=C(C(F)c1ccccc1)[O-:21] 10=20;20,21=21",
"C[N:10](C)CC(CSCc1ccccc1)SCc1ccccc1.c1cc(-c2nc3ccccc3s2)cc([NH2+:21][H:20])c1>>C[N+:10](C)(CC(CSCc1ccccc1)SCc1ccccc1)[H:20].c1cc(-c2nc3ccccc3s2)cc([NH2:21])c1 10=20;20,21=21",
"C#CC[N:10]1CCN(C(=O)OCC)CC1.Cc1cc(-c2[nH]cc[nH+]2)[n+:21]([H:20])n1C>>C#CC[N+:10]1([H:20])CCN(C(=O)OCC)CC1.Cc1cc(-c2[nH]cc[nH+]2)[n:21]n1C 10=20;20,21=21",
"N[n+]1ccccc1[O-:10].O=C1C[C@@H](C(=O)O)[C@@H](C(=O)[O:21][H:20])O1>>N[n+]1ccccc1[O:10][H:20].O=C1C[C@@H](C(=O)O)[C@@H](C(=O)[O-:21])O1 10=20;20,21=21",
"C[N+:21](C)(CCCCC(=O)Oc1ccccc1)[H:20].Nc1ccnc(-c2cc(N)cc[n:10]2)c1>>C[N:21](C)CCCCC(=O)Oc1ccccc1.Nc1ccnc(-c2cc(N)cc[n+:10]2[H:20])c1 10=20;20,21=21",
